US07968577B2
A suspension of 2,3-Dihydroxy-benzoic acid methyl ester (336 mg, 2 mmol) and cesium carbonate (1.56 g, 4.8 mmol) in DMF was stirred at room temperature for 0.5 h. 1,2-Dibromoethane (0.224 ml, 2.6 mmol) was added to the DMF solution. The mixture was stirred at 80 C for 4 h, and then diluted with ethyl acetate. The organic layer was washed with water and brine, dried over anhydrous MgSO4, filtered and concentrated in vacuo to give the crude product. It was chromatographed on silica gel with EtOAc/hexane (20%-40%) as eluent to afford 2,3-dihydro-benzo[1,4]dioxine-5-carboxylic acid methyl ester as a white solid. (223 mg, 1.14 mmol, 57.4% yield).

reactant | 2,3-Dihydroxy-benzoic acid methyl ester | 2 mmol, 336 mg | COC(C1=C(C(=CC=C1)O)O)=O | C8H8O4
reactant | cesium carbonate | 4.8 mmol, 1.56 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1,2-Dibromoethane | 2.6 mmol, 0.224 ml | BrCCBr | C2H4Br2
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,3-dihydro-benzo[1,4]dioxine-5-carboxylic acid methyl ester | 57.4% yield | COC(=O)C1=CC=CC=2OCCOC21 | C10H10O4
